US06858599B2
Synthesis of ethyl 2-[(2-nitrobenzenesulfonyl)amino]acetate
To a suspension of glycine ethyl ester hydrochloride (9.45 g) in methylene chloride (100 ml) were added triethylamine (18.9 ml) and 2-nitrobenzenesulfonyl chloride (10.0 g) in succession under cooling with ice and the mixture was stirred at room temperature for 2 days. To the reaction mixture was added 1N hydrochloric acid under cooling with ice, followed by extraction with methylene chloride. The organic layer was washed with saturated aqueous solution of sodium hydrogencarbonate, then saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the precipitated crystals were washed with a mixed solvent of n-hexane and diethyl ether, collected by filtration and air-dried to obtain the title compound (10.8 g).

reactant | glycine ethyl ester hydrochloride | 9.45 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 18.9 ml | C(C)N(CC)CC | C6H15N
reactant | 2-nitrobenzenesulfonyl chloride | 10.0 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-[(2-nitrobenzenesulfonyl)amino]acetate | 10.8 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NCC(=O)OCC | C10H12N2O6S
